US04957928
First 4.44 g (33.3 mmol) of aluminium chloride in 150 ml of absolute diethyl ether are added dropwise while stirring at room temperature to a suspension of 7.59 g (200 mmol) of lithium aluminium hydride in 300 ml of absolute diethyl ether. Then 17.32 g (100 mmol) of 3-cyanomethylchroman, dissolved in 200 ml of tetrahydrofuran, are added dropwise within a period of 15 minutes. The reaction mixture is stirred for 16 hours at room temperature and then decomposed with 7.6 ml of water, 7.6 ml of sodium hydroxide solution (15% strength) and 22.8 ml of water. The precipitate formed is filtered off with suction and the filtrate is concentrated by evaporation in vacuo. The oily residue is dissolved in diethyl ether and washed with water. The organic phase is then extracted by shaking with 2N hydrochloric acid. The combined hydrochloric acid extracts are rendered alkaline, while cold, with sodium hydroxide solution (30% strength) and extracted with dichloromethane. The combined organic phases are dried over sodium sulphate and concentrated by evaporation in vacuo. 15.95 g (90%) of 3-(2-aminoethyl)chroman are obtained in the form of a colourless oil. The 3-(2-aminoethyl)chroman hydrochloride produced therefrom using hydrochloric acid in diethyl ether crystallises from methanol/diethyl ether and has a melting point of 244°-245°.

reactant | aluminium chloride | 33.3 mmol, 4.44 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminium hydride | 200 mmol, 7.59 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-cyanomethylchroman | 100 mmol, 17.32 g | C(#N)CC1COC2=CC=CC=C2C1 | C11H11NO
reactant | sodium hydroxide | 7.6 ml | [OH-].[Na+]
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 22.8 ml | O | H2O
solvent | water | 7.6 ml | O | H2O
product | 3-(2-aminoethyl)chroman | 15.95 g, 90% | NCCC1COC2=CC=CC=C2C1 | C11H15NO
